US06235742B1
(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)(phenyl)methanone
Pyridinium chlorochromate (400 mg, 0.00186 mol) was added to a solution of 5-[α-hydroxybenzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one (200 mg, 0.00068 mol) in dichloromethane (50 ml) and the reaction stirred at room temperature for 3 hours.

reactant | Pyridinium chlorochromate | 0.00186 mol, 400 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 5-[α-hydroxybenzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 0.00068 mol, 200 mg | OC(C1=CC=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C16H18N4O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)(phenyl)methanone | CN1N=C(C=2N=C(NC(C21)=O)C(=O)C2=CC=CC=C2)CCC | C16H16N4O2
